US04496725
To a mixture of 20 g of 2-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 500 ml of dimethylformamide was added 20 g of 2-mercaptoacetamide. To the resultant mixture was added dropwise a solution of 15 g of potassium hydroxide in 100 ml of water. The mixture was stirred at room temperature for 30 minutes and enough additional water was added to give a homogeneous solution. The mixture was stirred at room temperature for 16 hours and then poured into 4 liters of water. The yellow precipitate which formed was separated by filtration and dried to give 3-amino-6,7-dimethoxy thieno[2,3-b]quinoline-2-carboxamide melting at about 278.5°-279.5° C. with decomposition.

reactant | 2-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 20 g | ClC1=NC2=CC(=C(C=C2C=C1C#N)OC)OC | C12H9ClN2O2
reactant | 2-mercaptoacetamide | 20 g | SCC(=O)N | C2H5NOS
reactant | potassium hydroxide | 15 g | [OH-].[K+]
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | water | 4 liters | O | H2O
product | 3-amino-6,7-dimethoxy thieno[2,3-b]quinoline-2-carboxamide | NC1=C(SC2=NC3=CC(=C(C=C3C=C21)OC)OC)C(=O)N | C14H13N3O3S
